US06489046B1
(6) Preparation of 8,15-bis(p-biphenylyl)benzo[a]pentacene (Compound A-1)
In 150 ml of isopropyl ether and 75 ml of dichloromethane, 1.5 g (2.3 mmole) of 8,15-bis(p-biphenylyl)-8,15-dihydro-8,15-dihydroxybenzo[a]-pentacene was suspended. To the obtained suspension, 40 ml of a 57% aqueous solution of hydrogen iodide was added under the refluxing condition and the obtained mixture was stirred for 5 minutes. After the reaction was completed, the reaction solution was added to 500 ml of a saturated aqueous solution of sodium hydrogencarbonate and the obtained mixture was stirred for 10 minutes. The formed precipitates were separated by filtration and washed once with ion-exchanged water, once with a saturated aqueous solution of sodium disulfite and then three times with ion-exchanged water. The washed precipitates were dried under heating at a reduced pressure and 0.84 g (the yield: 51%) of a light purple solid of 8,15-bis(p-biphenylyl)benzo[a]pentacene was obtained. The obtained product was purified by sublimation at 320° C. under 4.0×10−6 Torr for 2 hours and 450 mg of a deep purple amorphous solid was obtained.

reactant | 8,15-bis(p-biphenylyl)-8,15-dihydro-8,15-dihydroxybenzo[a]-pentacene | 2.3 mmole, 1.5 g | C1(=C(C=CC=C1)C1(C2=CC3=CC=C4C(=C3C=C2C(C2=CC3=CC=CC=C3C=C12)(O)C1=C(C=CC=C1)C1=CC=CC=C1)C=CC=C4)O)C4=CC=CC=C4 | C50H34O2
reactant | hydrogen iodide | I | HI
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | isopropyl ether | 150 ml | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 8,15-bis(p-biphenylyl)benzo[a]pentacene | 450 mg, yield: 51% | C1(=C(C=CC=C1)C=1C2=CC3=CC=C4C(=C3C=C2C(=C2C=C3C=CC=CC3=CC12)C1=C(C=CC=C1)C1=CC=CC=C1)C=CC=C4)C4=CC=CC=C4 | C50H32
